US06348461B1
3,4-Dihydro-6-nitro-3-oxo-7-trifluoromethylquinoxaline-2-carboxylic Acid
To a solution of ethyl 3,4-dihydro-6-nitro-3-oxo-7-trifluoromethylquinoxaline-2-carboxylate (120 mg, 362 μmol) in ethanol (5 ml) was added 1N aqueous solution of potassium hydroxide (724 μl, 724 μmol), and the mixture was refluxed for 1 hour. After cooling, water was added and the pH value was brought to 2 with concentrated hydrochloric acid. The precipitate was collected by filtration, washed with water and then air-dried to obtain 102 mg of the title compound as colorless powder. Yield 88%.

reactant | ethyl 3,4-dihydro-6-nitro-3-oxo-7-trifluoromethylquinoxaline-2-carboxylate | 362 μmol, 120 mg | [N+](=O)([O-])C=1C=C2NC(C(=NC2=CC1C(F)(F)F)C(=O)OCC)=O | C12H8F3N3O5
reactant | potassium hydroxide | 724 μmol, 724 μl | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3,4-Dihydro-6-nitro-3-oxo-7-trifluoromethylquinoxaline-2-carboxylic Acid | 102 mg, Yield 88% | [N+](=O)([O-])C=1C=C2NC(C(=NC2=CC1C(F)(F)F)C(=O)O)=O | C10H4F3N3O5
